US03947473
A mixture of 70.8 g. of (±)-6-hydroxy-2-methoxy-2,5,7,8-tetramethylchroman, 90.9 g. of anhydrous potassium carbonate, 300 ml. of dimethylsulfoxide and 69 ml. of benzyl chloride was stirred at 23° under N2 for 24 hours. The suspension was poured into water and extracted with ether. The ether solutions were washed with brine, dried over sodium sulfate and stripped of solvent to give (±)-6-benzyloxy-2-methoxy-2,5,7,8-tetramethylchroman as an oil which solidified to a light yellow mass, m.p. 70°-72.5°.

reactant | (±)-6-hydroxy-2-methoxy-2,5,7,8-tetramethylchroman | OC=1C(=C2CCC(OC2=C(C1C)C)(C)OC)C | C14H20O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulfoxide | CS(=O)C | C2H6OS
reactant | benzyl chloride | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | water | O | H2O
product | (±)-6-benzyloxy-2-methoxy-2,5,7,8-tetramethylchroman | C(C1=CC=CC=C1)OC=1C(=C2CCC(OC2=C(C1C)C)(C)OC)C | C21H26O3
